US07531532B2
[1,4′]Bipiperidinyl-1′-carboxylic acid [6-(4-nitro-2-fluorophenoxy)pyrimidin-4-yl]amide
4-Amino-6-(2-fluoro-4-nitrophenoxy)pyrimidine (40 mg) was dissolved in tetrahydrofuran (2 ml) under a nitrogen atmosphere, and then triethylamine (0.045 ml) and phenyl chloroformate (0.040 ml) were added dropwise thereto, followed by stirring at room temperature for 1 hr. The reaction mixture was concentrated under a reduced pressure to give a residue, which was then dissolved in N,N-dimethylformamide (2 ml). 4-(Piperidin-1-yl)piperidine (108 mg) was added thereto, followed by stirring for 10 min. The reaction mixture was partitioned between ethyl acetate and a saturated aqueous solution of ammonium chloride. The organic layer was washed with a saturated aqueous solution of ammonium chloride, water and brine in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated under a reduced pressure to give a residue, which was then purified by silica gel column chromatography (Fuji Silysia NH, eluent; hexane:ethyl acetate=1:1 to 1:2). Fractions containing the target compound were concentrated under a reduced pressure, and dried in vacuum to provide the titled compound (43.9 mg, 61.7%) as a yellow solid.

reactant | 4-Amino-6-(2-fluoro-4-nitrophenoxy)pyrimidine | 40 mg | NC1=NC=NC(=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])F | C10H7FN4O3
reactant | triethylamine | 0.045 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 0.040 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 4-(Piperidin-1-yl)piperidine | 108 mg | N1(CCCCC1)C1CCNCC1 | C10H20N2
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | [1,4′]Bipiperidinyl-1′-carboxylic acid [6-(4-nitro-2-fluorophenoxy)pyrimidin-4-yl]amide | 43.9 mg, 61.7% | [N+](=O)([O-])C1=CC(=C(OC2=CC(=NC=N2)NC(=O)N2CCC(CC2)N2CCCCC2)C=C1)F | C21H25FN6O4
